Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
mouth pain, odynophagia, rash 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of recently diagnosed HIV/AIDS, 
PCP pneumonia treated with 21 days of high dose bactrim, now 
presenting with 4 days of diffuse maculopapular rash, mouth 
pain, and fevers to 102.
.
Patient requested HIV test approximately one month ago after 
learning that a prior partner was HIV positive. He then 
developed shortness of breath and cough and presented to the 
emergency department. CXR demonstrated multifocal infiltrates 
and he was diagnosed with PCP pneumonia by bronchoscopy. At that 
time his HIV antibody was positive, his CD4 count was 54 
(___), and his HIV VL was 321,000. He was treated with 
bactrim DS 2 tabs TID for 21 days, and with a prednisone taper.
.
Since this time, he has been started on atripla as an outpatient 
on ___. Over the last week he noticed a rash on his chest 
and arms that worsened. It was itchy but not painful. He also 
noted steadily worsening oral pain and pain with swallowing. He 
also had fevers to 102 with chills for the past two nights and 
poor PO intake. He presented to outpatient clinic and was 
treated with fluconazole for thrush, and with valtrex for oral 
herpes.
.
He then presented to outpatient clinic, and was noted to have a 
diffuse maculopapular rash and mucositis. he was referred to the 
ED with concern for ___ syndrome. 
 
Past Medical History:
Esophageal candidiasis
HIV/AIDS
Pneumocystis pneumonia
Hypertension
Vitamin D Deficiency
Tinea Barbae
Alcohol Abuse 
 
Social History:
___
Family History:
Family History: Mother with DM, HTN, father with DM, HTN and 
pacemaker. 
 
Physical Exam:
PHYSICAL EXAM:
Vitals - T: 98.6 BP: 140/90 HR: 120 RR: 18 02 sat:98/RA
GENERAL: Pleasant, well appearing in NAD
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. Desquamation of mouth, lips, 
oozing blood on lips, ginigivitis.
SKIN: Diffuse maculopapular rash, with red papules over chest, 
arms, face, scrotum and legs.
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or gallops.
LUNGS: CTAB, no wheezes, rales, rhonchi, good air movement 
biaterally.
ABDOMEN: NABS. Soft, NT, ND. No HSM
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.
SKIN: No rashes/lesions, ecchymoses.
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Normal coordination. Gait assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant 

 
Pertinent Results:
Admission Labs:
___ 11:50AM BLOOD WBC-5.7 RBC-3.94* Hgb-11.7* Hct-34.1* 
MCV-87 MCH-29.7 MCHC-34.4 RDW-16.3* Plt ___
___ 11:50AM BLOOD Neuts-63 Bands-2 Lymphs-12* Monos-19* 
Eos-3 Baso-1 ___ Myelos-0
___ 11:50AM BLOOD ___ PTT-29.7 ___
___ 11:50AM BLOOD Glucose-107* UreaN-14 Creat-1.8* Na-126* 
K-4.8 Cl-95* HCO3-20* AnGap-16
___ 11:50AM BLOOD ALT-34 AST-32 LD(LDH)-273* AlkPhos-50 
TotBili-0.3
___ 05:56AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9
___ 11:45AM BLOOD Lactate-1.2 K-5.1
 
Brief Hospital Course:
# ___: Bactrim was considered the most 
likely causal agent was held.  Dermatology was consulted on 
admission.  Skin biopsies were taken and he was started on 
prednisone 80mg PO daily, with a planned taper over 4 weeks.  
His bactrim, fluconazole and valtrex were stopped.  Opthomology 
was consulted and found no ocular involvement.  His muscositis 
pain was managed with lidocaine mouthwash, dexamthasone 
mouthwash and PO vicodin.  His rash and mucositis improved, 
though he still had substantial painful desquamation of the 
scrotuim on discharge.
.
# HIV/AIDS: Patient had recently been started on atripla.  This 
medication was initially held due to concern for low serum 
bicarbonate, but was restarted once this resolved.  He was 
treated with inhaled pentamindine once for PCP ___.  CXR 
demonstrated no evidence of pneumonia. 
.
# Hypertension/Tachycardia: On admission, patient was 
tachycardic and hypertensive.  He was intially restarted on his 
home amlodipine and given IVF as there was concern that he was 
hypovolemic.  His amlodipine was stopped, and he was started on 
metoprolol.  His dose was titrated up to 50mg PO bid.
.
# Hyponatremia/ ARF: On admission, serum sodium was 126 and 
creatine was 1.8.  With aggresive fluid resusciation with normal 
saline, these values returned the the normal range. 
 
Medications on Admission:
Vitamin D 50,000 units q weekly
Nizoral 2% shampoo
Azithromycin 1000 mg po weekly
Atripla 1 po daily
Norvasc 10 mg po daily
Fluconazole 200 mg po daily x 10 days ___ day 1)
Ambien ___ mg po qhs prn insonia
Valtrex 1 gm po BID x 10 days for initial HSV outbreak ___ day 
1)
Ibuprofen 600 mg po QID with meals prn pain, fever
Ammonium Lactate one application for dry skin 
 
Discharge Medications:
1. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment Sig: One 
(1) Appl Ophthalmic TID (3 times a day).  
2. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
3. Metoprolol Tartrate 25 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).
Disp:*qs Tablet(s)* Refills:*2*
4. Zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for insomnia.  
5. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
6. Lidocaine HCl 2 % Solution Sig: Ten (10) ML Mucous membrane 
QID (4 times a day) as needed for mouth pain.
Disp:*qs 100 ml* Refills:*5*
7. Prednisone 10 mg Tablet Sig: Please see below Tablet PO once 
a day: 60mg daily (6 pills) for ___
then switch to 40 mg (4 pills) for 5 days, 20mg (2 pills) for 5 
days, 10 mg (1 pills) for 5 days then stop.
Disp:*60 Tablet(s)* Refills:*0*
8. ATRIPLA ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
9. Dexamethasone 0.5 mg/5 mL Elixir Sig: ___ MLs PO BID (2 
times a day).
Disp:*qs ML(s)* Refills:*2*
10. Azithromycin 600 mg Tablet Sig: Two (2) Tablet PO once a 
week: As directed by Dr. ___.  
11. Pentamidine 300 mg Recon Soln Sig: One (1) inhaler 
Inhalation once a month: As directed by Dr. ___.  
12. Maalox/Viscous Lidocaine 2%
1 part maalox (aluminum hydroxide/magnesium hydroxide), 1 part 
viscous lidocaine 2%.  Swish and swallow, four times daily as 
needed for oral pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___
HIV/AIDS
Hypertension
Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with ___ syndrome, a condition 
which affects the skin and mucous membranes.  We think this was 
caused by the antibiotic bactrim.  You were treated with 
steroids and pain medications. You will continue to take 
steroids (prednisone) for several weeks as we taper the dose 
down from 80mg to zero. You will take 60mg for 5 days, 40mg for 
5 days, 20 mg for 5 days, 10 mg for 5 days, and then stop taking 
it all together.

You should not take bactrim in the future. You can continue 
taking atripla for your HIV infection, and will continue taking 
weekly azithromax and monthly pentamidine to prevent you from 
getting opportunistic infections, until your CD4 count raises or 
your primary HIV doctor decides that you no longer need them. 
These drugs should be safe and will not cause recurrence of your 
___.

While you were here, you also showed signs of elevated heart 
rate and blood pressure. We saw that Dr. ___ 
Cardiologist, had suggested you change from amlodipine (Norvasc) 
to Metoprolol (Toprol), which will help keep your heart from 
beating too fast and also help lower your blood pressure. We are 
sending you home on a dose of 50mg Metoprolol twice daily, and 
you should follow up with Dr. ___ to see if this is 
appropriately controlling your heart rate and blood pressure.

The last thing you were followed for while here was your 
shortness of breath. Given your history of PCP, we performed two 
xrays to make sure you didn't have ongoing pneumonia. Your lungs 
are currently clear, but you should ensure that you continue 
taking your monthly pentamadine.

Please stop taking valtex and fluconazole.  Discuss all 
medication changes with your primary care doctor, ___.
 
Followup Instructions:
___